US08530470B2
tert-butyl 2-(6-(methoxycarbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-1H-pyrrole-1-carboxylate (17.1 g, 37.63 mmol) and 5% Rhodium on Alumina (50% wet) (3.4 g, 0.80 mmol) in MeOH (175 mL) were stirred under an atmosphere of hydrogen at 5 bars and 65° C. for 7 h. The catalyst was removed from the reaction by filtration on a pad of Celite and washed with MeOH. The celite and catalyst were slurried in 500 mL of 10% MeOH in DCM and filtered again. The organic solutions were combined and evaporated to give tert-butyl 2-(6-(methoxycarbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate (14.4 g, 83%) as a fawn solid.

reactant | tert-butyl 2-(6-(methoxycarbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-1H-pyrrole-1-carboxylate | 37.63 mmol, 17.1 g | COC(=O)C=1C=C2C(C=C(OC2=C(C1)C=1N(C=CC1)C(=O)OC(C)(C)C)N1CCOCC1)=O | C24H26N2O7
solvent | MeOH | 175 mL | CO | CH4O
catalyst | Rhodium on Alumina | 0.80 mmol, 3.4 g | [Rh] | Rh
product | tert-butyl 2-(6-(methoxycarbonyl)-2-morpholino-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate | 14.4 g, 83% | COC(=O)C=1C=C2C(C=C(OC2=C(C1)C1N(CCC1)C(=O)OC(C)(C)C)N1CCOCC1)=O | C24H30N2O7
